US04086417
Also, the following the above procedure using N4 -myristoylcytidine-5'-pyrophosphate, N4 -pentadecanoylcytidine-5'-pyrophosphate, N4 -palmitoylcytidine-5'-pyrophosphate, N4 -margaroylcytidine-5'-pyrophosphate, N4 -stearoylcytidine-5'-pyrophosphate, N4 -nonadecanoylcytidine-5'-pyrophosphate, N4 -arachidoylcytidine-5'-pyrophosphate, N4 -heneicosanoylcytidine-5'-pyrophosphate, N4 -behenoylcytidine-5'-pyrophosphate, and N4 -oleoylcytidine-5'-pyrophosphate, respectively, instead of N4 -myristoylcytidine-5'-phosphate, the following products were obtained:

reactant | N4 -myristoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCC)=O)C=C1)O)O | C23H41N3O12P2
reactant | N4 -pentadecanoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCC)=O)C=C1)O)O | C24H43N3O12P2
reactant | N4 -palmitoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCC)=O)C=C1)O)O | C25H45N3O12P2
reactant | N4 -margaroylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCCC)=O)C=C1)O)O | C26H47N3O12P2
reactant | N4 -stearoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCCCC)=O)C=C1)O)O | C27H49N3O12P2
reactant | N4 -nonadecanoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCCCCC)=O)C=C1)O)O | C28H51N3O12P2
reactant | N4 -arachidoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCCCCCC)=O)C=C1)O)O | C29H53N3O12P2
reactant | N4 -heneicosanoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCCCCCCC)=O)C=C1)O)O | C30H55N3O12P2
reactant | N4 -behenoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCCCCCCCC)=O)C=C1)O)O | C31H57N3O12P2
reactant | N4 -oleoylcytidine-5'-pyrophosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCC\C=C/CCCCCCCC)=O)C=C1)O)O | C27H47N3O12P2
product | N4 -myristoylcytidine-5'-phosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCC)=O)C=C1)O)O | C23H40N3O9P
